US09210929B2
Step 1: (1-Oxo-4-bromo-indan-2-yl)-acetic acid ethyl ester
To a solution of 4-bromoindanone (15.8 g, 75 mmol) at −78° C. was added LiHMDS (1 M in THF, 90 mL). The slight brown solution was allowed to warm up to 0° C., and was cooled again to −75° C. and ethyl 2-bromoacetate (9.1 mL, 82 mmol) was added dropwise. The mixture was allowed to warm up over night (−75° C. to −20° C. over 12 h). The mixture was quenched with sat. ammonium chloride and was extracted with ethyl acetate. Flash chromatography give 19.5 g of the title compound in a mixture with the starting indanone ethyl 2-[4-bromo-2-(2-ethoxy-2-oxo-ethyl)-1-oxo-indan-2-yl]acetate and which was used without further purification for the next step (purity, 60% of the desired product). LC-MS (Method A) RT 1.11 min., 297/299 (M+H+).

reactant | 4-bromoindanone | 75 mmol, 15.8 g | BrC1=C2CCC(C2=CC=C1)=O | C9H7BrO
reactant | ethyl 2-bromoacetate | 82 mmol, 9.1 mL | BrCC(=O)OCC | C4H7BrO2
solvent | LiHMDS | 1 M, 90 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
product | (1-Oxo-4-bromo-indan-2-yl)-acetic acid ethyl ester | 19.5 g | C(C)OC(CC1C(C2=CC=CC(=C2C1)Br)=O)=O | C13H13BrO3
